US09416153B2
Synthesis of (Z)-5-(4-(3-(ethylamino)-6-(ethylimino)-2,7-dimethyl-6H-xanthen-9-yl)phenoxy)pentanoic acid (Dye 10)
Dye 10 (shown below) was prepared using the procedure described in Example 4 except that 3-(ethylamino)-4-methylphenol and 5-(4-formylphenoxy)pentanoic acid substituted for 1-ethyl-2,2,4-trimethyl-1,2-dihydroquinolin-7-ol and 2-(4-formylphenoxy)acetic acid. Yield: 17%. λabs=524 nm (in methanol), λem=541 nm (in methanol).

reactant | 3-(ethylamino)-4-methylphenol | C(C)NC=1C=C(C=CC1C)O | C9H13NO
reactant | 5-(4-formylphenoxy)pentanoic acid | C(=O)C1=CC=C(OCCCCC(=O)O)C=C1 | C12H14O4
reactant | 1-ethyl-2,2,4-trimethyl-1,2-dihydroquinolin-7-ol | C(C)N1C(C=C(C2=CC=C(C=C12)O)C)(C)C | C14H19NO
reactant | 2-(4-formylphenoxy)acetic acid | C(=O)C1=CC=C(OCC(=O)O)C=C1 | C9H8O4
solvent | methanol | CO | CH4O
product | (Z)-5-(4-(3-(ethylamino)-6-(ethylimino)-2,7-dimethyl-6H-xanthen-9-yl)phenoxy)pentanoic acid | Yield: 17% | C(C)NC=1C(=CC=2C(=C3C=C(\C(\C=C3OC2C1)=N/CC)C)C1=CC=C(OCCCCC(=O)O)C=C1)C | C30H34N2O4
